US07745641B2
In a similar manner to Step 2 of Example 6, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (30.0 mg, 0.0730 mmol) was dissolved in acetonitrile (2 mL), and the solution was treated with 4′-aminoacetanilide (44 mg, 0.29 mmol), acetic acid (0.084 mL, 1.5 mmol) and sodium triacetoxyborohydride (46 mg, 0.22 mmol). The reaction mixture was added with 1 mol/L hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, followed by drying over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(4-aminophenylaminomethyl)indol-2-yl]isoindolinone (35.2 mg, yield 88%).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.0730 mmol, 30.0 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | 4′-aminoacetanilide | 0.29 mmol, 44 mg | NC1=CC=C(NC(C)=O)C=C1 | C8H10N2O
reactant | acetic acid | 1.5 mmol, 0.084 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.22 mmol, 46 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(4-aminophenylaminomethyl)indol-2-yl]isoindolinone | 35.2 mg, yield 88% | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CNC1=CC=C(C=C1)N)C(=O)OC(C)(C)C)=O | C28H27ClN4O3
